US04290846
81.5 g of 3,5-dichlorophenol and 2.5 g of diphenyl sulfide are dissolved in 1 liter of anhydrous ether. Then 2.5 g of anhydrous aluminium chloride are added and 80 g of bromine are added dropwise at room temperature in the course of 10 minutes. The reaction mixture is then stirred for 15 hours at reflux temperature and subsequently poured into water. The organic phase is separated, washed neutral with water, dried and concentrated. The solid residue is recrystallised from cyclohexane, affording 72.6 g of 3,5-dichloro-4-bromophenol in the form of colourless crystals with a melting point of 118°-120° C.

reactant | 3,5-dichlorophenol | 81.5 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | bromine | 80 g | BrBr | Br2
reactant | water | O | H2O
solvent | ether | 1 liter | CCOCC | C4H10O
catalyst | diphenyl sulfide | 2.5 g | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
catalyst | aluminium chloride | 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3,5-dichloro-4-bromophenol | 72.6 g | ClC=1C=C(C=C(C1Br)Cl)O | C6H3BrCl2O
